US07994171B2
1-(5-fluoropyrimidin-2-yl)cyclopropanamine.
To a solution of 5-fluoropyrimidine-2-carbonitrile (200 mg, 1.6 mmol, 1 eq) in a dry THF under an argon atmosphere was added titanium isopropoxide (0.55 ml, 1.9 mmol, 1.2 eq) at ambient temperature and the reaction mixture was stirred for 15 min. Ethyl magnesium bromide (1M solution) in THF (4 ml, 4.0 mmol, 2.5 eq) was added via syringe slowly at ambient temperature. Then the reaction mixture was stirred for an hour. BF3.EtO (0.34 ml, 2.4 mmol, 1.5 eq) was added slowly through syringe to the mixture at 0° C. The mixture was allowed to attain ambient temperature and stirred for another one hour. 10 ml of water was added to the reaction mixture which was then filtered through Celite and the bed washed with water and ethyl acetate. The filtrate was basified with 10% NaOH solution (pH=9) then extracted with DCM and washed with brine solution, dried over sodium sulphate and concentrated to give the crude product which was taken for coupling reaction without further purification. Yield: 125 mg (crude).

reactant | 5-fluoropyrimidine-2-carbonitrile | 1.6 mmol, 200 mg, 1 eq | FC=1C=NC(=NC1)C#N | C5H2FN3
reactant | THF | C1CCOC1 | C4H8O
reactant | Ethyl magnesium bromide | 1M | C(C)[Mg]Br
reactant | THF | 4.0 mmol, 4 ml, 2.5 eq | C1CCOC1 | C4H8O
reactant | BF3 | B(F)(F)F | BF3
catalyst | titanium isopropoxide | 1.9 mmol, 0.55 ml, 1.2 eq | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | 10 ml | O | H2O
product | 1-(5-fluoropyrimidin-2-yl)cyclopropanamine | FC=1C=NC(=NC1)C1(CC1)N | C7H8FN3
